US05571813
Preparation of 7-[(2'-Cyanobiphenyl-4-yl)methylamino]-5-methylpyrazolo[1,5-a]pyrimidine
3.35 g (20 mmol) 7-chloro-5-methylpyrazolo[1,5-a]pyrimidine (prepared according to Y. Makisumi, Chem. Pharm. Bull. 1962, 10, 620) and 4.17 g (20 mmol) 4-aminomethyl-2'-cyanobiphenyl were heated with reflux in 40 ml dry ethanol for 4 hours. The solvent was distilled off in vacuo, and the remaining oil solidified after stirring with a mixture of 20 ml hexane and 20 ml t-butylmethylether to give a reddish powder of the pure title compound, m.p. 221°-223° C.

reactant | 7-chloro-5-methylpyrazolo[1,5-a]pyrimidine | 20 mmol, 3.35 g | ClC1=CC(=NC=2N1N=CC2)C | C7H6ClN3
reactant | 4-aminomethyl-2'-cyanobiphenyl | 20 mmol, 4.17 g | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H12N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 7-[(2'-Cyanobiphenyl-4-yl)methylamino]-5-methylpyrazolo[1,5-a]pyrimidine | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=CC(=NC=2N1N=CC2)C | C21H17N5
